US05750549
2-(Methylthio)benzylbromide
To a solution of 400 mg (2.59 mmol) of 2-methylthio-benzylalcohol in 8 mL of methanol was added 1.42 g (3.37 mmol) of triphenylphosphine dibromide and stirred at room temperature for 18 h. The mixture was concentrated and purified by silica gel flash chromatography, eluting with 2% ethyl acetate/hexane to give 289 mg of the title compound. NMR (CDCl3): δ 2.50 (s, 3H), 4.63 (s, 2H), 7.13 (m, 1H), 7.27 (m, 2H), 7.34 (d, 1).

reactant | 2-methylthio-benzylalcohol | 2.59 mmol, 400 mg | CSC1=C(CO)C=CC=C1 | C8H10OS
reactant | triphenylphosphine dibromide | 3.37 mmol, 1.42 g | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | 8 mL | CO | CH4O
product | 2-(Methylthio)benzylbromide | 289 mg | CSC1=C(CBr)C=CC=C1 | C8H9BrS
